US04298529
Thionyl chloride (1.52 g.) was added to a solution of dry N,N-dimethylformamide (0.92 g.) in dry ethyl acetate (16 ml.) under ice-cooling, and stirred at the same temperature for 30 minutes. 2-Methoxyimino-3,3-ethylenedioxybutyric acid (syn isomer, 2.3 g.) was added to the solution and stirred under ice-cooling for an hour. The solution was added dropwise to a stirred solution of 7-amino-3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (3.44 g.) and triethylamine (4.9 ml.) in dry methylene chloride (70 ml.) over 30 minutes and stirred at -20° to -30° C. for 1.5 hours. After adding an aqueous solution of sodium bicarbonate to the resultant solution, the aqueous layer was separated and washed with ethyl acetate. A mixed solvent (100 ml.) of ethyl acetate and methanol (4:1) was added to the aqueous solution, adjusted to pH 2.5 with 20% sulfuric acid under ice-cooling and filtered. The ethyl acetate layer was separated from the filtrate. The aqueous layer was extracted with ethyl acetate (50 ml.) twice. The ethyl acetate layer and the extract were combined, washed with water and saturated aqueous sodium chloride in turn, dried over magnesium sulfate and concentrated in vacuo. The residue was triturated with diisopropyl ether and the precipitates was collected by filtration to give 7-(2-methoxyimino-3,3-ethylenedioxybutyramido)-3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 2.2 g.), yellow powder.

reactant | Thionyl chloride | 1.52 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-Methoxyimino-3,3-ethylenedioxybutyric acid | 2.3 g | CON=C(C(=O)O)C1(C)OCCO1 | C7H11NO5
reactant | 7-amino-3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 3.44 g | NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)C)C(=O)O)C1=O | C11H12N4O3S3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 16 ml | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 4.9 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 0.92 g | CN(C=O)C | C3H7NO
product | 7-(2-methoxyimino-3,3-ethylenedioxybutyramido)-3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.2 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)C)C(=O)O)C1=O)C1(C)OCCO1 | C18H21N5O7S3
